US07728131B2
(2R,4R)-1-(t-butoxycarbonyl)-2-methyl-4-(p-toluenesulfonyloxy)pyrrolidine
To a solution of 1.02 g of (2R,4R)-1-(t-butoxycarbonyl)-4-hydroxy-2-methylpyrrolidine (J. Med. Chem., 1988, 31, 1598-1611) in 10 ml of anhydrous dichloromethane, 1.7 ml of triethylamine and 1.16 g of p-toluenesulfonyl chloride were added, and then the mixture was stirred at room temperature overnight. The reaction solution was mixed with water, and followed by extraction with ethyl acetate twice. The organic layers were combined, washed in turn with water, 1N hydrochloric acid and a 1N aqueous sodium hydroxide solution and dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to obtain 1.54 g of the objective compound as a colorless oily product.

reactant | (2R,4R)-1-(t-butoxycarbonyl)-4-hydroxy-2-methylpyrrolidine | 1.02 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)C | C10H19NO3
reactant | p-toluenesulfonyl chloride | 1.16 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | triethylamine | 1.7 ml | C(C)N(CC)CC | C6H15N
product | (2R,4R)-1-(t-butoxycarbonyl)-2-methyl-4-(p-toluenesulfonyloxy)pyrrolidine | 1.54 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C1=CC=C(C=C1)C)C | C17H25NO5S
